US08242104B2
Step 3: {2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulen-9-yl}-methanol
To a solution of 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid methyl ester (393 mg, 1 mmol) in THF (10 mL) at −70° C. was added DIBAL (3 mL, 1 M solution in toluene, 3 mmol) and the reaction mixture stirred at 0° C. for 1 h. The reaction mixture was diluted with methanol (5 mL), then with saturated aqueous sodium potassium tartrate solution. The resultant mixture was extracted with ethyl acetate (3×20 mL), then the combined organic fractions dried (MgSO4) and concentrated in vacuo to give the title compound (370 mg, 100%).

reactant | 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid methyl ester | 1 mmol, 393 mg | COC(=O)C=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)CC(F)(F)F)C1 | C17H14F3N5O3
reactant | DIBAL | 3 mmol, 1 M, 3 mL | CC(C)C[AlH]CC(C)C
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | {2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulen-9-yl}-methanol | 370 mg, 100% | FC(CN1N=CN=C1C=1C=C2CCOC3=C(N2N1)C=C(C=C3)CO)(F)F | C16H14F3N5O2
